US04851588
To a 50 ml round bottom flask equipped with a stir bar and reflux condensor topped with a nitrogen inlet was added 0.5 g (.004 mol) 2,2-dimethyl-5-nitro-5-bromo-1,3-dioxane, 10 ml methanol and 0.3ml concentrated HCl. The reaction was heated to 35°-40° C. for 1 hour. After cooling to room temperature, the volatiles were removed to give crystalline bronopol (95% yield) which on recrystallization from acetone had a melting point of 120° C.

reactant | 2,2-dimethyl-5-nitro-5-bromo-1,3-dioxane | .004 mol, 0.5 g | CC1(OCC(CO1)(Br)[N+](=O)[O-])C | C6H10BrNO4
reactant | HCl | 0.3ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | bronopol | 95% yield | C(C(CO)([N+](=O)[O-])Br)O | C3H6BrNO4
